US05324833
Boc-Asn(Trt)-OH
3.83 g (10 mmol) of H-Asn(Trt)-OH×0.5 H2O and 1.37 ml (10 mmol) triethylamine are dissolved in 38 ml of 90% strength tetrahydrofuran. 2.2 ml (10 mmol) of di-tert.-butyl dicarbonate are added, followed by a further 1.37 ml of triethylamine. Reaction is allowed to take place at room temperature for 21/2 hours and then the mixture is extracted with 250 ml of ethyl acetate and 125 ml of aqueous one-molar KHSO4 solution. The organic phase is washed until neutral, dried over Na2SO4 and evaporated to dryness. The residue is crystallized from methanol/ethyl acetate/hexane; m.p. of the resulting title product: 201°-203°, [α]D20 =-17.7°±1° (THF).

reactant | H-Asn(Trt)-OH | 10 mmol, 3.83 g | N[C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C23H22N2O3
reactant | H2O | O | H2O
reactant | triethylamine | 10 mmol, 1.37 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert.-butyl dicarbonate | 10 mmol, 2.2 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 1.37 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Boc-Asn(Trt)-OH | N([C@@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C28H30N2O5
